US08076482B2
Preparation of chiral (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(2-cyclopropanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one
A mixture of chiral (2′S, 3S, 4′R)-4′-[5-chloro-2-(2-cyclopropanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (12 mg, 0.018 mmol) and P2S5 (12 mg, 0.054 mmol) in THF (1 mL) was heated at 50° C. for 2 h, and then diluted with toluene (10 mL). The mixture was concentrated in vacuo and the residue was washed with DCM twice. The DCM layers were combined and concentrated. The residue was purified by flash chromatography to give the title compound as white solid (11 mg).

reactant | 4′-[5-chloro-2-(2-cyclopropanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.018 mmol, 12 mg | ClC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)F)C)C(NC1=CC(=CC=C12)Cl)=O)OC(C(=O)NS(=O)(=O)C1CC1)(C)C | C32H30Cl2FN3O6S
reactant | P2S5 | 0.054 mmol, 12 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-4′-[5-chloro-2-(2-cyclopropanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one | 11 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C(=O)NS(=O)(=O)C1CC1)(C)C)=S)C1=C(C=CC(=C1)F)C)=O | C32H30Cl2FN3O5S2
